US09169254B2
4-Dimethylaminopyridine (634 mg, 5.2 mmol) was added to a solution of 2,2,3,3,4,4-hexafluoro-pentane-1,5-diol (1 g, 4.7 mmol) and tert-butyldimethylsilyl chloride (708 mg, 4.7 mmol) in methylene chloride (10 ml), and the mixture was stirred at room temperature for 16 hours. The reaction mixture was concentrated under reduced pressure, and the residue was then purified by silica gel column chromatography to give 5-(tert-butyl-dimethyl-silanyloxy)-2,2,3,3,4,4-hexafluoro-pentan-1-ol (770 mg, 50%).

reactant | 2,2,3,3,4,4-hexafluoro-pentane-1,5-diol | 4.7 mmol, 1 g | FC(CO)(C(C(CO)(F)F)(F)F)F | C5H6F6O2
reactant | tert-butyldimethylsilyl chloride | 4.7 mmol, 708 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
catalyst | 4-Dimethylaminopyridine | 5.2 mmol, 634 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-(tert-butyl-dimethyl-silanyloxy)-2,2,3,3,4,4-hexafluoro-pentan-1-ol | 770 mg, 50% | C(C)(C)(C)[Si](OCC(C(C(CO)(F)F)(F)F)(F)F)(C)C | C11H20F6O2Si
